US07666879B2
A. 1-{5-tert-Butyl-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2H-pyrazol-3-yl}-3-{4-[7-(4-methanesulfonyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-urea
Prepare the title compound in a manner analogous to Example 1 from 4-[7-(4-methanesulfonyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-benzylamine and {5-tert-butyl-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2H-pyrazol-3-yl}-carbamic acid 2,2,2-trichloro-ethyl ester. MS (ES), m/z 701 (M+1).

reactant | 4-[7-(4-methanesulfonyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-benzylamine | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(CN)C=C2 | C21H19N3O2S
reactant | {5-tert-butyl-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2H-pyrazol-3-yl}-carbamic acid 2,2,2-trichloro-ethyl ester | ClC(COC(NC=1N(N=C(C1)C(C)(C)C)CCO[Si](C)(C)C(C)(C)C)=O)(Cl)Cl | C18H32Cl3N3O3Si
product | 1-{5-tert-Butyl-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2H-pyrazol-3-yl}-3-{4-[7-(4-methanesulfonyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-urea | C(C)(C)(C)C=1C=C(N(N1)CCO[Si](C)(C)C(C)(C)C)NC(=O)NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)S(=O)(=O)C | C37H48N6O4SSi
